US09447091B2
N-cyclopropyl-2-oxooxazolidine-3-sulfonamide
To a solution of bromoethanol (1 g, 8.06 mmol) in DCM was added chloro sulfonyl isocyanate (1.13 g, 8.06 mmol) in DCM and this solution added over 2 min, dropwise, to cyclopropyl amine (0.552 g, 0.009 mmol) and triethylamine (1 ml, 0.007 mmol) in DCM and stirred at RT for 1 h. The mixture was quenched with 0.2 M HCl solution and extracted with DCM (3×150 ml). The combined organic layer was washed with water, brine and dried over sodium sulphate. The solvent was distilled off to afford the product in 48% yield (0.8 g). 1H NMR (400 MHz, DMSO-d6): δ 8.15-8.14 (d, 1H), 4.42 (t, 2H), 3.70 (t, 2H), 2.35 (m, 1H), 0.58-0.53 (m, 4H).

reactant | bromoethanol | 8.06 mmol, 1 g | BrC(C)O | C2H5BrO
reactant | chloro sulfonyl isocyanate | 8.06 mmol, 1.13 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | cyclopropyl amine | 0.009 mmol, 0.552 g | C1(CC1)N | C3H7N
reactant | triethylamine | 0.007 mmol, 1 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-2-oxooxazolidine-3-sulfonamide | 48% yield | C1(CC1)NS(=O)(=O)N1C(OCC1)=O | C6H10N2O4S
